* Testcase 000688 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources

* Circuit
I1 N1 GND 1u
I2 N8 GND 1u
XM1 BBIn LOIp N9 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM2 BBIp LOIp N7 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM3 N10 VCASCODE N8 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
R1 N8 RFn 10k
R2 N1 RFp 10k
XM4 N7 S1 N4 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM5 N4 VCASCODE N1 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM6 N9 S1 N10 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM7 BBIn LOIn N7 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM8 BBIp LOIn N9 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM9 N8 S2 N1 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5

.control
set filetype=ascii

op
let power_dc = 0
print power_dc
let dc_voltage = v(N1)
print dc_voltage

quit
.endc

.end
