* Testcase 000695 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources

* Circuit
VS N1 GND DC 0 AC 1
R1 N1 N2 10k
CC N2 N3 1p
L1 N3 N4 10n
L2 N4 GND 10n
L3 N4 N5 10n
C2 N5 N6 1p
L4 N6 N7 10n
R2 N7 GND 10k
C1 N5 GND 1p

.control
set filetype=ascii

op
let power_dc = abs(i(VS)) * 1.8
print power_dc

ac dec 100 1 100g

let vmag = vm(N7)
let vdb = db(vmag)

* Gain at key frequencies
meas ac gain_1khz_db FIND vdb AT=1e3
meas ac gain_1mhz_db FIND vdb AT=1e6
meas ac gain_1ghz_db FIND vdb AT=1e9

* Try to find 3dB bandwidth
meas ac max_gain MAX vdb
meas ac bw_3db_hz WHEN vdb='max_gain-3' CROSS=1

print gain_1khz_db gain_1mhz_db gain_1ghz_db bw_3db_hz

quit
.endc

.end
