* Testcase 000702 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VIN_MINUS IN_MINUS 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)
VIN_PLUS IN_PLUS 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)
VIBIAS IBIAS 0 0.75

* Circuit
R1 VCC N1 10k
R2 VCC N2 10k
R3 N4 GND 10k
R4 N5 GND 10k
R5 N6 GND 10k
R6 N7 GND 10k
L1 VCC N1 10n
L2 VCC N2 10n
XQ11 N1 IN_MINUS N3 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ12 N2 IN_PLUS N3 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ13 IBIAS IBIAS N7 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ14 LO_PLUS IBIAS N4 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ15 N3 IBIAS N5 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ16 LO_MINUS IBIAS N6 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ17 VCC N1 LO_PLUS 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ28 VCC N2 LO_MINUS 0 sky130_fd_pr__npn_05v5_W1p00L1p00

.control
set filetype=ascii

op
let vdd_current = abs(i(VVDD))
let power_dc = vdd_current * 1.8
print power_dc

ac dec 100 1k 100g
let vout_mag = vm(N4)
let gain_db = db(vout_mag)

meas ac max_gain_db MAX gain_db
meas ac bw_3db WHEN gain_db='max_gain_db-3' CROSS=1

print max_gain_db bw_3db

quit
.endc

.end
