* Testcase 000706 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VVIN_MINUS VIN_MINUS 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)
VVIN_PLUS VIN_PLUS 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)

* Circuit
I1 VIN_MINUS GND 1u
I2 VIN_PLUS GND 1u
C1 VPI2 GND 1p
R1 VPI2 GND 10k
C2 VPI1 GND 1p
R2 VPI1 GND 10k
R3 VIN_PLUS VPI2 10k
R4 VIN_MINUS VPI1 10k

.control
set filetype=ascii

op
let power_dc = abs(i(VVIN_MINUS)) * 1.8
print power_dc

ac dec 100 1 10g
let vout_mag = vm(VPI2)
let gain_db = db(vout_mag)

meas ac max_gain_db MAX gain_db
meas ac bw_3db WHEN gain_db='max_gain_db-3' CROSS=1

print max_gain_db bw_3db

quit
.endc

.end
